US07790931B2
From the toluene extract, a small amount of a sample was withdrawn, and it was subjected to GC analysis. As a result of the analysis, a peak of the tetrafluoroterephthalonitrile as a raw material was below the detection limit, and the amount of tetrafluoroterephthalaldehyde was 68.9 mol %. On the other hand, the aqueous phase was neutralized and then subjected to GC analysis. As a result of the analysis, presence of 14.8 mol % of 2,3,5,6-tetrafluorobenzylamine was confirmed. The results are set forth in Table 1.

reactant | tetrafluoroterephthalonitrile | FC1=C(C(=C(C(=C1C#N)F)F)C#N)F | C8F4N2
reactant | tetrafluoroterephthalaldehyde | FC1=C(C(=C(C(=C1C=O)F)F)C=O)F | C8H2F4O2
product | 2,3,5,6-tetrafluorobenzylamine | FC1=C(CN)C(=C(C=C1F)F)F | C7H5F4N
